US06953857B2
(iv) 3-[2-(5-Chloro-pyridin-2-yl)-ethoxy]-4-methoxy-benzoic acid
85 mg 3-[2-(5-Chloro-pyridin-2-yl)-ethoxy]-4-methoxy-benzoic acid methyl ester was dissolved in 1.2 ml of MeOH:water/3:1. 30 mg of lithium hydroxide monohydrate were added to the added to the solution, and the reaction was stirred at RT for 16 h. The reaction mixture was acidified with half-concentrated hydrochloric acid. The suspension was concentrated under reduced pressure, coevaporated twice with toluene (2×10 ml) and then directly subjected to the subsequent amide coupling.

reactant | 3-[2-(5-Chloro-pyridin-2-yl)-ethoxy]-4-methoxy-benzoic acid methyl ester | 85 mg | COC(C1=CC(=C(C=C1)OC)OCCC1=NC=C(C=C1)Cl)=O | C16H16ClNO4
reactant | water | O | H2O
reactant | lithium hydroxide monohydrate | 30 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | MeOH | 1.2 ml | CO | CH4O
product | 3-[2-(5-Chloro-pyridin-2-yl)-ethoxy]-4-methoxy-benzoic acid | ClC=1C=CC(=NC1)CCOC=1C=C(C(=O)O)C=CC1OC | C15H14ClNO4
